US04006009
Preparation of Tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-cyclohexylcarbonyloxy-2(1H)-pyrimidinone
Tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2yl)-3-allyl-6-hydroxy-2(1H)-pyrimidinone (0.1 mole), cyclohexane carboxylic anhydride (0.11 mole), toluenesulfonic acid (0.05 gram) and benzene (100 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The reaction mixture is heated on a stream bath with stirring for a period of about 2 hours. After this time the reaction mixture is cooled to room temperature and is stripped of solvent under reduced pressure leaving a residue. The residue is recrystallized to yield the desired product tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-cyclohexylcarbonyloxy-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2yl)-3-allyl-6-hydroxy-2(1H)-pyrimidinone | 0.1 mole | CS(=O)(=O)C1=NN=C(S1)N1C(N(CCC1O)CC=C)=O | C10H14N4O4S2
reactant | cyclohexane carboxylic anhydride | 0.11 mole | C1(CCCCC1)C(=O)OC(=O)C1CCCCC1 | C14H22O3
reactant | toluenesulfonic acid | 0.05 gram | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | tetrahydro-1-(5-methylsulfonyl-1,3,4-thiadiazol-2-yl)-3-allyl-6-cyclohexylcarbonyloxy-2(1H)-pyrimidinone | CS(=O)(=O)C1=NN=C(S1)N1C(N(CCC1OC(=O)C1CCCCC1)CC=C)=O | C17H24N4O5S2
